US04719200
N-phenylcarbamoyl-L-alanyl-L-prolyl-L-proline (1.00 g-2.49 m mole) was dissolved in a solution of L-arginine (0.43 g, 2.49 m mole) in water, and the thus obtained solution was freeze-dried to give N-phenylcarbamoyl-L-alanyl-L-prolyl-L-proline L-arginine salt (1.38 g).

reactant | N-phenylcarbamoyl-L-alanyl-L-prolyl-L-proline | C1(=CC=CC=C1)NC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | C20H26N4O5
reactant | L-arginine | 0.43 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | O | H2O
product | N-phenylcarbamoyl-L-alanyl-L-prolyl-L-proline L-arginine salt | 1.38 g | N[C@@H](CCCNC(N)=N)C(=O)O.C1(=CC=CC=C1)NC(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)N2[C@H](C(=O)O)CCC2)CCC1 | InChI=1S/C20H26N4O5.C6H14N4O2/c1-13(21-20(29)22-14-7-3-2-4-8-14)17(25)23-11-5-9-15(23)18(26)24-12-6-10-16(24)19(27)28;7-4(5(11)12)2-1-3-10-6(8)9/h2-4,7-8,13,15-16H,5-6,9-12H2,1H3,(H,27,28)(H2,21,22,29);4H,1-3,7H2,(H,11,12)(H4,8,9,10)/t13-,15-,16-;4-/m00/s1
